US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(1-methyl-1H-imidazol-2-ylsulfanyl)-ethyl]-phenyl ester
The title compound was prepared as its TFA salt in 37% yield as an oil using methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester and 2-mercapto-1-methylimidazole. NMR (400 MHz; CDCl3): δ 3.01 (t, 2H), 3.40 (br s, 3H), 3.47 (s, 1H), 3.64 (t, 2H), 6.92 (br d, 2H), 6.98 (s, 1H), 7.08 (d, 2H), 7.26–7.43 (m, 6H); HPLC-MS: m/z=368.2 (M+1); Rt=2.30 min.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester | OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H17NO3
reactant | 2-mercapto-1-methylimidazole | SC=1N(C=CN1)C | C4H6N2S
product | Methyl-phenyl-carbamic acid 4-[2-(1-methyl-1H-imidazol-2-ylsulfanyl)-ethyl]-phenyl ester | 37% yield | CN1C(=NC=C1)SCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H21N3O2S
